US05082939
To a solution of 25% aqueous hydrazine (4.25 1) and 32% ammonia (7.5 1) in water (23.7 1) 3.6-dichloropyridazine (3 kg) was added, while maintaining a gentle stream of nitrogen. The mixture was headed at reflux for 2 hours and, after cooling, the precipitate was collected, washed with water and dried to afford 2.5 kg (85.9%) of 3-chloro-6-hydrazinopyridazine, m.p. 140°-141° C.

reactant | hydrazine | NN | H4N2
reactant | ammonia | N | H3N
reactant | 3.6-dichloropyridazine | 3 kg | ClC=1N=NC(=CC1)Cl | C4H2Cl2N2
solvent | water | O | H2O
product | 3-chloro-6-hydrazinopyridazine | 2.5 kg, 85.9% | ClC=1N=NC(=CC1)NN | C4H5ClN4
